US07011838B2
Using 0.50 g of (4-(trifluoromethylthio)benzyl)malononitrile, 10 ml of N,N-dimethylformamide, 0.09 g of sodium hydride (60% in oil), and 0.38 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.03 g of 2-(4-(trifluoromethylthio)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (13)).

reactant | (4-(trifluoromethylthio)benzyl)malononitrile | 0.50 g | FC(SC1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2S
reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 0.38 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-(trifluoromethylthio)benzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.03 g, Yield: 11% | FC(SC1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1)(F)F | C14H10F6N2S
